US07713996B2
Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (8.3 g, 17.8 mmol, 1.1 equiv.) and diisopropyl ethyl amine (4.4 ml, 33.9 mmol, 2.1 equiv.) were added to 1H-indole-6-carboxylic acid (2.6 g, 16.2 mmol, 1 equiv.) in tetrahydrofuran (30 mL) and the mixture was shaken for 5 minutes at room temperature. 4-Amino-2-chlorobenzoic acid methyl ester (3.3 g, 17.9 mmol, 1.1 equiv.) was added and the resultant mixture was shaken at room temperature for 16 hours. The solvent was removed under vacuum and the residue triturated with dichloromethane (10 mL). The solid was filtered to afford 2-chloro-4-[(1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester, 1.4 g (26% yield). LC @215 nm; Rt 1.36: 90%, m/z (ES+): 329 (M+H+.); δH (400 MHz; d6-DMSO) 11.65 (1H, s), 10.59 (1H, s), 8.16 (1H, s), 8.10 (1H, s), 7.93 (2H, m), 7.65 (2H, s), 7.59 (1H, m), 6.62 (1H, s), 3.85 (3H, s).

reactant | Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 17.8 mmol, 8.3 g, 1.1 equiv. | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropyl ethyl amine | 33.9 mmol, 4.4 ml, 2.1 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-indole-6-carboxylic acid | 16.2 mmol, 2.6 g, 1 equiv. | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 4-Amino-2-chlorobenzoic acid methyl ester | 17.9 mmol, 3.3 g, 1.1 equiv. | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-[(1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester | 26% yield | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2C=CNC2=C1)Cl)=O | C17H13ClN2O3
